US07906541B2
257 mg of 9-heptyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide (0.620 mmol) were solubilised in methanol (40 mL), then 268 mg (8 eq) of NaOMe were added and the solution stirred at room temperature. After 48 h the solvent was evaporated, water was added (20 mL) and the mixture extracted with CH2Cl2 (3×20 mL). The organic layer was dried with MgSO4 and evaporated under reduced pressure to afford 1-heptyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one as a pale green oil (164 mg, 83%). Rf=0.65 (CH2Cl2/AcOEt 8:2); 1H NMR (300 MHz, CDCl3) δ=0.82-0.87 (3H, m, CH3), 1.14-1.44 (8H, m, 4-CH2), 1.75 (2H, quint, J=7.1, CH2), 2.12 (3H, d, J=1.2, CH3), 2.21 (3H, s, SCH3), 3.86 (2H, t, J=7.3, CH2), 6.21 (1H, q, J=1.2, H5), 6.80-7.14 (4H, m, Ar). 13C NMR (75 MHz, CDCl3) δ=13.86, 16.67, 20.20, 22.34, 26.52, 28.07, 28.70, 31.49, 40.91, 107.64, 108.80, 120.69, 121.15, 126.53, 127.23, 127.39, 129.52, 151.96; HRMS m/z C18H27N2OS [M+H]+ calcd: 319.1839, found: 319.1838.

reactant | 9-heptyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide | 0.620 mmol, 257 mg | [I-].C(CCCCCC)[N+]1=C2N(C3=C1C=CC=C3)C(=CS2)C
reactant | NaOMe | 268 mg, 8 eq | C[O-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 1-heptyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one | 164 mg, 83% | C(CCCCCC)N1C(N(C2=C1C=CC=C2)\C(=C/SC)\C)=O | C18H26N2OS
